US05532243
Trans-2-Benzyl-6-hydroxy-6-(4'-methoxyphenyl)decahydroisoquinoline
Following the general procedure described in Example 49, trans-2-benzoyl-6-hydroxy-6-(4'-methoxyphenyl)decahydroisoquinoline (219 mg, 0.6 mmol) and lithium aluminum hydride (0.14 g, 3.6 mmol) were reacted in anhydrous THF (10 mL). Column chromatography (chloroform: methanol::9:1) afforded the product, a solid (158 mg): mp 38°-40° C.; NMR (CDCl3, 200 MHz): 7.4 (d, 2H, J=8), 7.35-7.2 (m, 5H), 6.85 (d, 2H, J=8), 3.8 (s, 3H), 3.55 (s, 2H), 2.95 (br d, 1H, J=10), 2.85 (br d, 1H, J=10), 2.05 (br t, 1H, J=8), 1.85-1.7 (m, 4H), 1.6-1.3 (m, 7H); HRMS: Calcd: 351.2198, Found: 351.2193.

reactant | trans-2-benzoyl-6-hydroxy-6-(4'-methoxyphenyl)decahydroisoquinoline | 0.6 mmol, 219 mg | C(C1=CC=CC=C1)(=O)N1C[C@@H]2CCC(C[C@H]2CC1)(C1=CC=C(C=C1)OC)O | C23H27NO3
reactant | lithium aluminum hydride | 3.6 mmol, 0.14 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | methanol | CO | CH4O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | Trans-2-Benzyl-6-hydroxy-6-(4'-methoxyphenyl)decahydroisoquinoline | C(C1=CC=CC=C1)N1C[C@@H]2CCC(C[C@H]2CC1)(C1=CC=C(C=C1)OC)O | C23H29NO2
